US04489093
Using the procedure of Step B of Example 43, (1R,cis,E) 2,2-dimethyl-3-[2-fluoro-3-oxo-3-(2,2,2-trifluoroethoxy)-1-propenyl]-cyclopropane carboxylic acid and (S)α-cyano-3-phenoxy-4-fluoro-benzyl alcohol were reacted to obtain (S)α-cyano-3-phenoxy-4-fluoro-benzyl (1R,cis,E) 2,2-dimethyl-3-[2-fluoro-3-oxo-3-(2,2,2-trifluoroethoxy)-1-propenyl]-cyclopropanecarboxylate melting at 85° C. and having a specific rotation of [α]D20 =+43°±2.5° (c=0.65% in chloroform).

reactant | (1R,cis,E) 2,2-dimethyl-3-[2-fluoro-3-oxo-3-(2,2,2-trifluoroethoxy)-1-propenyl]-cyclopropane carboxylic acid | CC1([C@@H]([C@@H]1\C=C(/C(OCC(F)(F)F)=O)\F)C(=O)O)C | C11H12F4O4
reactant | (S)α-cyano-3-phenoxy-4-fluoro-benzyl alcohol | C(#N)[C@H](C1=CC(=C(C=C1)F)OC1=CC=CC=C1)O | C14H10FNO2
product | (S)α-cyano-3-phenoxy-4-fluoro-benzyl (1R,cis,E) 2,2-dimethyl-3-[2-fluoro-3-oxo-3-(2,2,2-trifluoroethoxy)-1-propenyl]-cyclopropanecarboxylate | CC1([C@@H]([C@@H]1\C=C(/C(OCC(F)(F)F)=O)\F)C(=O)O[C@@H](C1=CC(=C(C=C1)F)OC1=CC=CC=C1)C#N)C | C25H20F5NO5
